US06916819B2
5. Preparation of 1-(4-amino-5-ethylamino-pyridin-2-yl)-ethanone
A mixture of 1-(5-ethylamino-4-nitro-pyridin-2-yl)-ethanone (310 mg, 1.5 mmol) and 10% Pd/C (50 mg) in ethanol (10 mL) is stirred under hydrogen for 1 hr. The mixture is filtered through Celite and concentrated in vacuo to give the product as yellow solid. 1H NMR (CD3OD) δ 7.61 (s, 1H), 7.30 (s, 1H), 3.26 (q, 2H), 2.53 (s, 3H), 0.90 (t, 3H). LRMS 180.5 (MH+).

reactant | 1-(5-ethylamino-4-nitro-pyridin-2-yl)-ethanone | 1.5 mmol, 310 mg | C(C)NC=1C(=CC(=NC1)C(C)=O)[N+](=O)[O-] | C9H11N3O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-(4-amino-5-ethylamino-pyridin-2-yl)-ethanone | NC1=CC(=NC=C1NCC)C(C)=O | C9H13N3O
